US08258160B2
Synthesis of 2-(1-(2,2-difluoro-2-phenylethyl)-1H-1,2,3-triazol-4-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a solution of 2-(1-(2,2-difluoro-2-phenylethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid (0.10 g, 0.28 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.07 g, 0.34 mmol) and N,N-diisopropylethylamine (0.09 mL, 0.51 mmol) in N,N-dimethylformamide (2 mL) was added 1-hydroxy-benzotriazole (0.10 g, 0.74 mmol). The resulting mixture was stirred at ambient temperature for 15 minutes and 3-(aminomethyl)pyridine (0.04 mL, 0.04 mmol) was added. The reaction mixture was stirred at ambient temperature for 17 hours, then diluted with ethyl acetate (30 mL), washed with water and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography to the title compound as a white solid (0.03 g, 7%): mp 150-151° C.; 1H NMR (300 MHz, CDCl3) δ 8.57 (br s, 1H), 8.53-8.47 (m, 1H), 8.23 (s, 1H), 7.74-7.64 (m, 1H), 7.55-7.39 (m, 5H), 7.32-7.22 (m, 1H), 6.56 (t, J=5.6 Hz, 1H), 5.02-4.93 (m, 2H), 4.60 (d, J=5.6 Hz, 2H), 2.70 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.8, 157.6, 157.3, 149.2, 149.1, 143.1, 135.7, 133.7, 132.8, 131.2, 129.0, 125.0, 124.6, 123.7, 122.9, 118.6, 56.1, 41.6, 17.3; MS (ES+) m/z 441.4 (M+1).

reactant | 2-(1-(2,2-difluoro-2-phenylethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid | 0.28 mmol, 0.10 g | FC(CN1N=NC(=C1)C=1SC(=C(N1)C)C(=O)O)(C1=CC=CC=C1)F | C15H12F2N4O2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.34 mmol, 0.07 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.51 mmol, 0.09 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-benzotriazole | 0.74 mmol, 0.10 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(aminomethyl)pyridine | 0.04 mmol, 0.04 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-(1-(2,2-difluoro-2-phenylethyl)-1H-1,2,3-triazol-4-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | FC(CN1N=NC(=C1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)(C1=CC=CC=C1)F | C21H18F2N6OS
